US05824690
Combine (R,R)-di-p-anisoyltartaric acid (0.93 g, 2.2 mmol) and aqueous 12M hydrochloric acid solution (0.19 mL, 2.28 mmol) in water/methanol (10 mL)/(10 mL). Heat to reflux. Add dropwise, a solution of 2-[3-(3,4-difluoro-phenyl)-pyrrolidin-3-yl]-ethanol (1.0 g, 4.4 mmol) in methanol (10 mL). After 15 minutes, slowly cool to ambient temperature. Filter the solid that forms and rinse with water to give (-)-2-[3-(3,4-difluoro-phenyl)-pyrrolidin-3-yl]-ethanol (R,R)-di-p-anisoyltartaric acid salt. [α]2D0 =-25.1 (c=1.02, dimethylsulfoxide). Analysis on HPLC, on an analytical sample of the free amine obtained by extraction, using a CHIRALPAK AD 25 cm×0.46 cm column eluting with pentane/methanol/triethylamine (80/10/0.1) with a flow rate of 1.0 mL/minute indicates an enantiomeric excess of 97.8%, (97.8% ee), retention time 19.0 minutes for the 3,4,5-trimethoxy-benzamide prepared from the (-)-isomer of the (R,R)-di-p-anisoyltartaric acid salt, retention time 12.5 minutes for the 3,4,5-trimethoxy-benzamide prepared from the (+)-isomer of the (R,R)-di-p-anisoyltartaric acid salt.

reactant | (R,R)-di-p-anisoyltartaric acid | 2.2 mmol, 0.93 g | C(C1=CC=C(C=C1)OC)(=O)[C@@]([C@@](C(=O)O)(O)C(C1=CC=C(C=C1)OC)=O)(O)C(=O)O | C20H18O10
reactant | hydrochloric acid | 2.28 mmol, 12M, 0.19 mL | Cl | ClH
reactant | 2-[3-(3,4-difluoro-phenyl)-pyrrolidin-3-yl]-ethanol | 4.4 mmol, 1.0 g | FC=1C=C(C=CC1F)C1(CNCC1)CCO | C12H15F2NO
solvent | water methanol | O.CO
solvent | methanol | 10 mL | CO | CH4O
product | (-)-2-[3-(3,4-difluoro-phenyl)-pyrrolidin-3-yl]-ethanol (R,R)-di-p-anisoyltartaric acid salt | C(C1=CC=C(C=C1)OC)(=O)[C@@]([C@@](C(=O)O)(O)C(C1=CC=C(C=C1)OC)=O)(O)C(=O)O.FC=1C=C(C=CC1F)C1(CNCC1)CCO | InChI=1S/C20H18O10.C12H15F2NO/c1-29-13-7-3-11(4-8-13)15(21)19(27,17(23)24)20(28,18(25)26)16(22)12-5-9-14(30-2)10-6-12;13-10-2-1-9(7-11(10)14)12(4-6-16)3-5-15-8-12/h3-10,27-28H,1-2H3,(H,23,24)(H,25,26);1-2,7,15-16H,3-6,8H2/t19-,20-;/m1./s1
